US04956382
(C) N-Ethyl-4-methanesulphonamidophenethylamine
N-Benzyl-N-ethyl-4-methanesulphonamidophenethylamine (4.3 g, 12.9 mmole) was stirred under a hydrogen atmosphere (50 p.s.i.=344.7 kPa) in ethanol (50 ml) containing 10% Pd/C (0.5 g) for 5 hours. The mixture was then filtered, evaporated and the residue triturated with ether to give the title compound, yield 2.6 g, m.p. 125°-128°.

reactant | N-Benzyl-N-ethyl-4-methanesulphonamidophenethylamine | 12.9 mmole, 4.3 g | C(C1=CC=CC=C1)N(CC)CCC1=CC=C(C=C1)NS(=O)(=O)C | C18H24N2O2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | N-Ethyl-4-methanesulphonamidophenethylamine | C(C)NCCC1=CC=C(C=C1)NS(=O)(=O)C | C11H18N2O2S
